US07378414B2
5,5-dimethylhex-1-en-3-ol
A solution of 3,3-dimethylbutyraldehyde (5.0 mL, 39.8 mmol) in tetrahydrofuran (30 mL) was added dropwise to a solution of vinylmagnesium bromide (47.8 mL, 1M in tetrahydrofuran, 47.8 mmol) stirring at −20° C. The solution was stirred for 30 minutes at −20° C. at which time saturated ammonium chloride solution (75 mL) was added and the reaction was allowed to warm to 25° C. The solution was diluted with water and extracted three times with ethyl acetate. The ethyl acetate layers were combined and washed with brine, dried with sodium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel eluting with hexane, followed by 5% and 10% ethyl acetate in hexane to give the title compound (0.780 g, 15%). 1H NMR (300 MHz, CDCl3): δ ppm 0.98 (m, 9 H) 1.45 (m, 2 H) 4.26 (m, 1 H) 5.06 (m, 1 H) 5.21 (m, 1 H) 5.90 (m, 1 H).

reactant | 3,3-dimethylbutyraldehyde | 39.8 mmol, 5.0 mL | CC(CC=O)(C)C | C6H12O
reactant | vinylmagnesium bromide | 47.8 mmol, 1M, 47.8 mL | C(=C)[Mg]Br
reactant | ammonium chloride | 75 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5,5-dimethylhex-1-en-3-ol | 0.780 g, 15% | CC(CC(C=C)O)(C)C | C8H16O
